US09315530B2
Step 2: diethyl 4-((6-amino-2-(2-methoxyethoxy)-9H-purin-9-yl)methyl)benzylphosphonate
To a solution of diethyl 4-((6-amino-2-chloro-9H-purin-9-yl)methyl)benzylphosphonate (1 equiv.) in 2-methoxyethanol (0.10 M) was added sodium hydride (1.3 equiv.). The reaction mixture was then heated to 120° C. for 18 h. At this point the reaction mixture was allowed to cool to room temperature. The mixture was then diluted with water and EtOAc. This mixture was transferred to a separatory funnel and washed with water three times. The organic layer was then separated, dried over anhydrous Na2SO4 and the volatiles were removed in vacuo. The resulting residue was purified by a COMBIFLASH™ system using a gradient of 0-10% MeOH/DCM to provide the title compound in quantitative yield as a solid.

reactant | diethyl 4-((6-amino-2-chloro-9H-purin-9-yl)methyl)benzylphosphonate | 1 equiv. | NC1=C2N=CN(C2=NC(=N1)Cl)CC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C17H21ClN5O3P
reactant | sodium hydride | 1.3 equiv. | [H-].[Na+]
reactant | 2-methoxyethanol | 0.10 M | COCCO | C3H8O2
solvent | water | O | H2O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | diethyl 4-((6-amino-2-(2-methoxyethoxy)-9H-purin-9-yl)methyl)benzylphosphonate | quantitative yield | NC1=C2N=CN(C2=NC(=N1)OCCOC)CC1=CC=C(CP(OCC)(OCC)=O)C=C1 | C20H28N5O5P
